US09029370B2
a) Ethyl 1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylate
In a 50 ml round-bottomed flask, 1-azido-4-(difluoromethoxy)benzene (540 mg, 2.92 mmol) was combined with THF (10 ml) and dimethylsulfoxide (0.16 ml) to give an orange solution. Then ethyl propiolate (858 mg, 0.89 ml, 8.75 mmol), copper (I) iodide (556 mg, 2.92 mmol) and 2,6-lutidine (625 mg, 0.68 ml, 5.83 mmol) were added and the reaction mixture was stirred for 2 hours at room temperature. Water and ethyl acetate were added and the layers were separated. The organic layer was washed with 1 N hydrochloric acid and brine, dried over MgSO4 and filtered. The filtrate was concentrated under vacuum to yield a brown solid, which was adsorbed on silica gel and purified by flash chromatography (20 g Silica gel, 20% ethyl acetate in heptane) yielding 698 mg (84%) of a light yellow solid. MS (ISP): 284.2 ([M+H]+).

reactant | 1-azido-4-(difluoromethoxy)benzene | 2.92 mmol, 540 mg | N(=[N+]=[N-])C1=CC=C(C=C1)OC(F)F | C7H5F2N3O
reactant | THF | 10 ml | C1CCOC1 | C4H8O
reactant | ethyl propiolate | 8.75 mmol, 0.89 ml, 858 mg | C(C#C)(=O)OCC | C5H6O2
reactant | 2,6-lutidine | 5.83 mmol, 0.68 ml, 625 mg | N1=C(C=CC=C1C)C | C7H9N
catalyst | copper (I) iodide | 2.92 mmol, 556 mg | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
solvent | dimethylsulfoxide | 0.16 ml | CS(=O)C | C2H6OS
product | Ethyl 1-(4-(difluoromethoxy)phenyl)-1H-1,2,3-triazole-4-carboxylate | 698 mg, 84% | FC(OC1=CC=C(C=C1)N1N=NC(=C1)C(=O)OCC)F | C12H11F2N3O3
